US08242145B2
Step 1: {3-[3-(2-Oxo-oxazolidin-3-ylmethyl)-biphenyl-4-yloxy]-phenyl}-acetic acid methyl ester
{3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester (0.1 g, 0.24 mmol), phenylboronic acid (0.044 g, 0.36 mmol), tetrakis(triphenylphosphine)palladium(0) (0.027 g, 0.02 mmol), and potassium carbonate (0.082 g, 0.59 mmol) were combined in DME:H2O (2:1; 3 mL) and stirred at 90° C. for 5 hours. Once no starting material was seen by analytical LCMS, the pH was adjusted to pH 7 with saturated aqueous NH4Cl, and the mixture was extracted with EtOAc. The crude material was purified by silica gel chromatography to give the desired product (0.03 g).

reactant | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 0.24 mmol, 0.1 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C19H18BrNO5
reactant | phenylboronic acid | 0.36 mmol, 0.044 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 0.59 mmol, 0.082 g | C([O-])([O-])=O.[K+].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DME H2O | 3 mL | COCCOC.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.027 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {3-[3-(2-Oxo-oxazolidin-3-ylmethyl)-biphenyl-4-yloxy]-phenyl}-acetic acid methyl ester | 0.03 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C1=CC=CC=C1)CN1C(OCC1)=O)=O | C25H23NO5
